Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1],5.89990817681
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.31664347506
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][H:7].[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.4403613186300004
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-1.3827236750799998
[C:3](#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.88315832529
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.38064124564
[H:1][C:2]([H:3])([H:4])/[C:5](=[C:6](/[H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.81084142836
[C:3]#[C:4][O:5][C:6]([H:7])[H:8].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],-5.83498875041
[C:3]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-8.801797719169999
[C:8]([H:9])#[C:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11],1.5771038458000002
[H:1][O:2][C:3]1[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]1[O:4][C:5]([H:6])[C:11]1([H:12])[H:13],3.8136680371
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.41952062307
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.90431620796
[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.72299805749
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.3915899853900005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14],1.50894110223
[H:1][O:2][C:3]#[C:4][C:7](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:4]1=[C:5]([H:6])[C:7]1[C:8]([H:9])([H:10])[H:11],0.12986863915
[C:1][O:2][C:3]=[C:4]=[O:5].[C:6]([H:7])([H:8])[H:9]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],-0.592079093949
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6](#[C:7][C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],3.21638327555
[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]#[C:9][H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-4.80946917707
[H:1][C:2][H:3].[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.190297490330001
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]=[C:11]([H:12])[H:13],-0.0318669063799
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]1[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],4.33679569776
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.97362438241
[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[H:8].[H:5],2.04808777711
[C:1]#[C:2][C:3]([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:4]>>[C:1]#[C:2][C@:3]([H:4])([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11],-2.35806194956
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.92573454377
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],5.60720236868
